US08044043B2
5-(2,3-difluorophenyl)nona-1,8-dien-5-ol.
In a 500 mL round-bottomed flask (t=g) was added crude 4-iodobut-1-ene (11.51 g, 63.2 mmol) in Et2O (100 mL) to give a colorless solution. After cooling to −78° C. under nitrogen, tBuLi (80 mL, 136 mmol) was added dropwise via syringe. The mixture was slowly warmed up to room temperature while stirring for 2 hours. After 20 minutes at room temperature, the mixture was cooled to −78° C. and ethyl 2,3-difluorobenzoate (4.28 mL, 28.7 mmol) was added dropwise via syringe. The mixture was gradually warmed up to room temperature over 30 minutes. The reaction was quenched by water and the volatiles were evaporated. The residue was partitioned between water and EtOAc. The layers were separated and the organic layer was washed with brine, dried with Na2SO4 and concentrated to a light yellow oil. Purification up to 40% Et2O in hexane afforded the desired product as a colorless oil: (1.41 g, 19%). 1H NMR (400 MHz, CDCl3) δ 7.31-7.22 (m, 1H), 7.10-7.03 (m, 2H), 5.82-5.70 (m, 2H), 4.97-4.85 (m, 4H), 2.20-2.00 (m, 4H), 2.00-1.75 (m, 4H).

reactant | 4-iodobut-1-ene | 63.2 mmol, 11.51 g | ICCC=C | C4H7I
reactant | tBuLi | 136 mmol, 80 mL | [Li]C(C)(C)C
reactant | ethyl 2,3-difluorobenzoate | 28.7 mmol, 4.28 mL | FC1=C(C(=O)OCC)C=CC=C1F | C9H8F2O2
reactant | Et2O | 100 mL | CCOCC | C4H10O
product | 5-(2,3-difluorophenyl)nona-1,8-dien-5-ol | FC1=C(C=CC=C1F)C(CCC=C)(CCC=C)O | C15H18F2O
